US07074800B1
A mixture of 7-hydroxy-6-methoxy-4-(3-methylindol-5-yloxy)quinazoline (1.00 g, 3.11 mmol), (prepared as described for the starting material in Example 271), potassium carbonate (1.288 g, 9.33 mmol) and 4-(4-methylphenylsulphonyloxymethyl)-1-tert-butoxycarbonylpiperidine (1.264 g, 3.42 mmol), (prepared as described for the starting material in Example 10), in DMF (35 ml) was stirred at 80° C. for 2 hours and allowed to cool to ambient temperature. The reaction mixture was filtered and the solvent removed in vacuo. The residue was purified by silica column chromatography, 5% methanol/95% dichloromethane and the product was recrystallised from ethanol to give 6-methoxy-4-(3-methylindol-5-yloxy)-7-(1-tert-butoxycarbonylpiperidin-4-ylmethoxy)quinazoline (1.011 g, 63%).

reactant | 7-hydroxy-6-methoxy-4-(3-methylindol-5-yloxy)quinazoline | 3.11 mmol, 1.00 g | OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C(=CNC2=CC1)C)OC | C18H15N3O3
reactant | potassium carbonate | 9.33 mmol, 1.288 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-methylphenylsulphonyloxymethyl)-1-tert-butoxycarbonylpiperidine | 3.42 mmol, 1.264 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C18H27NO5S
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-(3-methylindol-5-yloxy)-7-(1-tert-butoxycarbonylpiperidin-4-ylmethoxy)quinazoline | 1.011 g, 63% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C(=O)OC(C)(C)C)OC=1C=C2C(=CNC2=CC1)C | C29H34N4O5
